US05015758
Preparation of 7-(1-adamantyl)-6-methoxy-2-bromonaphthalene
In a 100 ml flask, under a nitrogen atmosphere, are placed 1 g of 1-acetoxyadamantane and 30 ml of n-heptane, and 0.25 g of concentrated sulfuric acid is introduced. At a temperature of about 20° C., 1.22 g of 2-bromo-6-methoxynaphthalene are poured in slowly and the mixture is left in vigorous agitation for 48 hours. Next, 20 ml of denatured ethanol are introduced and the mixture is evaporated to dryness under reduced pressure. The product is taken up in denatured ethanol and the precipitate is filtered with sintered glass. After drying of the raw product in a vacuum oven for 24 hours at 30° C., one purifies using silica column chromatography. There were obtained 0.4 g of the desired raw product (Melting point: 164°-168° C.).

reactant | 1-acetoxyadamantane | 1 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | n-heptane | 30 ml | CCCCCCC | C7H16
reactant | sulfuric acid | 0.25 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-bromo-6-methoxynaphthalene | 1.22 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-(1-adamantyl)-6-methoxy-2-bromonaphthalene | 0.4 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)OC | C21H23BrO
